US20010053862A1
Diethyl-2-cyano-3-(4′-fluorophenyl)glutarate, prepared by the method of Wang et al. in European Patent Application EP 0802185 A1 (1.83 g), was dissolved in methanol (40 mL) and to the solution was added activated Raney nickel (400 mg, 50% wet) catalyst. The reaction mixture was evacuated and purged with nitrogen three times and then stirred under hydrogen atmosphere (H2) at atmospheric pressure in a water bath set at a temperature of about 40° C. for a period of about 18 hours. The reaction mixture was then cooled to ambient room temperature. The cooled reaction mixture was filtered through Celite. The reaction flask and Celite residue were each washed with methanol (2×20 mL) and the filtrates combined. The combined filtrate was evaporated under reduced pressure to provide a white solid 3-ethoxycarbonyl-4-(4′-fluorophenyl)piperidin-6-one (mp 116-120° C.). NMR data matched those reported in EP 0802185 A1, and indicated that the product was a cis-trans mixture having a ratio of cis:trans of about 42:58. The cis/trans ratio was determined by integration of the methyl group resonance at 1.00 ppm for the trans isomer and 1.20 ppm for the cis isomer.

reactant | Diethyl-2-cyano-3-(4′-fluorophenyl)glutarate | C(C)OC(C(C(CC(=O)OCC)C1=CC=C(C=C1)F)C#N)=O | C16H18FNO4
solvent | methanol | 40 mL | CO | CH4O
catalyst | Raney nickel | 400 mg | [Ni] | Ni
product | 3-ethoxycarbonyl-4-(4′-fluorophenyl)piperidin-6-one | C(C)OC(=O)C1CNC(CC1C1=CC=C(C=C1)F)=O | C14H16FNO3
